US09062055B2
Step 3. 6-Chloro-1-(3-fluorophenyl)-1H-indole-2-carbaldehyde
Dess-Martin periodinane (1.3 g, 2.9 mmol) was added to a solution of [6-chloro-1-(3-fluorophenyl)-1H-indol-2-yl]methanol (0.53 g, 1.9 mmol) in methylene chloride (10 mL). The solution was stirred at room temperature for 2 hours. The reaction mixture was diluted with dichloromethane, washed with 1:1 aqueous saturated Na2S2O3 and NaHCO3. The organic layers were dried over MgSO4, concentrated and purified on silica gel (eluting with 0-20% EtOAc in hexane) to give the desired product (50 mg). LCMS calculated for C15H10ClFNO(M+H)+: m/z=274.0. Found: 274.0.

reactant | Dess-Martin periodinane | 2.9 mmol, 1.3 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | [6-chloro-1-(3-fluorophenyl)-1H-indol-2-yl]methanol | 1.9 mmol, 0.53 g | ClC1=CC=C2C=C(N(C2=C1)C1=CC(=CC=C1)F)CO | C15H11ClFNO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-Chloro-1-(3-fluorophenyl)-1H-indole-2-carbaldehyde | 50 mg | ClC1=CC=C2C=C(N(C2=C1)C1=CC(=CC=C1)F)C=O | C15H9ClFNO
